.include AND.sub
.subckt AND_block node_a0 node_a1 node_a2 node_a3 node_b0 node_b1 node_b2 node_b3 node_out0 node_out1 node_out2 node_out3 vdd gnd
X23 node_a0 node_b0 node_out0 vdd gnd AND
X24 node_a1 node_b1 node_out1 vdd gnd AND
X25 node_a2 node_b2 node_out2 vdd gnd AND
X26 node_a3 node_b3 node_out3 vdd gnd AND
.ends AND_block
