.include "AND.sub"
.include "NOT.sub"
.subckt decoder node_a node_b node_out0 node_out1 node_out2 node_out3 vdd gnd
X1 node_a node_c vdd gnd NOT
X2 node_b node_d vdd gnd NOT

X3 node_c node_d node_out0 vdd gnd AND
X4 node_a node_d node_out1 vdd gnd AND
X5 node_b node_c node_out2 vdd gnd AND
X6 node_a node_b node_out3 vdd gnd AND
.ends